US08809012B2
Step 8: Synthesis of 1-(iodomethyl)-4-propylbenzene
(4-propylphenyl)methanol (100 mg, 0.666 mmol) was dissolved in 3 mL of well-dried dichloromethane (DCM) under argon condition and then cooled to 0° C., and methanesulfonyl chloride (MsCl; 62.1 μL, 0.799 mmol) and triethylamine (Et3N; 140 μL, 0.999 mmol) were added thereto. Upon completion of the reaction after stirring for 30 minutes at 0° C., the reaction was terminated by adding 5 mL of water. The reaction mixture was extracted with DCM (3 mL×3), and the organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out, and the resulting solution was concentrated by distillation under reduced pressure. The residue was dissolved again in 6 mL of acetone and then sodium iodide (NaI; 150 mg, 0.999 mmol) was added thereto. Upon completion of the reaction after stirring for 15 minutes at room temperature, the solvent was dried by distillation under reduced pressure. 10 mL of water was added to the residue and the mixture was extracted with ethyl acetate (5 mL×3). The organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out, and the resulting solution was concentrated by distillation under reduced pressure, and purified by column chromatography to obtain 157 mg (0.604 mmol, 90%) of the desired compound (tag β reporter unit).

reactant | (4-propylphenyl)methanol | 0.666 mmol, 100 mg | C(CC)C1=CC=C(C=C1)CO | C10H14O
reactant | methanesulfonyl chloride | 0.799 mmol, 62.1 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.999 mmol, 140 μL | C(C)N(CC)CC | C6H15N
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium iodide | 0.999 mmol, 150 mg | [I-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-(iodomethyl)-4-propylbenzene | 0.604 mmol, 157 mg, 90% | ICC1=CC=C(C=C1)CCC | C10H13I
